US04612314
A solution of 0.969 g of N2 -(4-methoxyphenyldiphenylmethyl)-9-(1,3-di-n-octanoyloxy-2-propoxymethyl)guanine in 40 ml of glacial acetic acid plus 10 ml of water was stirred at 75° C. for 3 hours. The solution was then concentrated and the residue chromatographed over silica gel eluting with 1:15 methanol:methylene chloride to give a white solid. The product was recrystallized from methanol to afford 0.385 g of 9-(1,3-di-n-octanoyloxy-2-propoxymethyl)guanine, m.p. 165°-166° C.

reactant | N2 (4-methoxyphenyldiphenylmethyl)-9-(1,3-di-n-octanoyloxy-2-propoxymethyl)guanine | 0.969 g | N#N.COC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1NC(C=2N=CN(C2N1)COC(COC(CCCCCCC)=O)COC(CCCCCCC)=O)=O
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
product | 9-(1,3-di-n-octanoyloxy-2-propoxymethyl)guanine | 0.385 g | C(CCCCCCC)(=O)OCC(COC(CCCCCCC)=O)OCN1C=2N=C(NC(C2N=C1)=O)N | C25H41N5O6
